US07728030B2
N-[(1R,2S)-1-[1-(4-Fluorophenyl)indazol-5-yl]oxy-1-(3-methoxyphenyl)propan-2-yl]-2-(2-methoxyethoxy)acetamide
Prepared as described in Example 1 using (1R,2S)-1-[1-(4-fluorophenyl)-indazol-5-yl]oxy-1-(3-methoxyphenyl)-propan-2-amine (50 mg, 0.13 mmol) and 2-(2-methoxyethoxy)acetyl chloride (0.039 mL, 0.38 mmol). Yield 52 mg (80%).

reactant | (1R,2S)-1-[1-(4-fluorophenyl)-indazol-5-yl]oxy-1-(3-methoxyphenyl)-propan-2-amine | 0.13 mmol, 50 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)N)C1=CC(=CC=C1)OC | C23H22FN3O2
reactant | 2-(2-methoxyethoxy)acetyl chloride | 0.38 mmol, 0.039 mL | COCCOCC(=O)Cl | C5H9ClO3
product | N-[(1R,2S)-1-[1-(4-Fluorophenyl)indazol-5-yl]oxy-1-(3-methoxyphenyl)propan-2-yl]-2-(2-methoxyethoxy)acetamide | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)NC(COCCOC)=O)C1=CC(=CC=C1)OC | C28H30FN3O5
